US07728176B2
A 50-ml four-necked flask was equipped with a stirrer, a thermometer and a reflux condenser. 0.034 g (0.15 mmol) of palladium (II) acetate, 1.088 g (6 mmol) of dicyclohexylamine and 5 ml of tetrahydrofuran were weighed in the flask, followed by stirring. Further, 0.174 g (0.3 mmol) of tri-tert-butylphosphonium tetra-para-tolylborate obtained in Example B-3 was weighed in air and added into the flask. The flask was purged with argon, followed by stirring at 30° C. for 30 minutes. 0.875 g (5 mmol) of 1-bromo-4-fluorobenzene and 0.505 g (6 mmol) of 2-methyl-3-butyne-2-ol were added, followed by stirring at 30° C. for 17 hours. After the completion of the reaction, 10 ml of tetrahydrofuran, 5 ml of toluene and 15 ml of saturated sodium chloride solution were added, followed by separation. The organic phase was purified by column chromatography to afford 0.862 g of (4-fluorophenyl)-2-methyl-3-butyne-2-ol (yield: 97 mol % based on 1-bromo-4-fluorobenzene). The identification of the product was made by 1H-NMR and 13C-NMR.

reactant | dicyclohexylamine | 6 mmol, 1.088 g | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | 1-bromo-4-fluorobenzene | 5 mmol, 0.875 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | 2-methyl-3-butyne-2-ol | 6 mmol, 0.505 g | CC(C)(C#C)O | C5H8O
reactant | sodium chloride | 15 ml | [Cl-].[Na+]
catalyst | palladium (II) acetate | 0.15 mmol, 0.034 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tri-tert-butylphosphonium tetra-para-tolylborate | 0.3 mmol, 0.174 g | C1(=CC=C(C=C1)[B-](C1=CC=C(C=C1)C)(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (4-fluorophenyl)-2-methyl-3-butyne-2-ol | 0.862 g | FC1=CC=C(C=C1)CC(C#C)(O)C | C11H11FO
